US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(5-oxo-3-phenyl-4,5-dihydro-1H-1,2,4-triazol-1-yl)piperidine-1-carboxamide
Triethylamine (19 μL, 0.135 mmol) was added to a solution of the hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (18.8 mg, 0.045 mmol) and 4-nitrophenyl chloroformate (9.0 mg, 0.045 mmol) in tetrahydrofuran (2 mL) at 0° C. After 1 h, 5-phenyl-2-piperidin-4-yl-2,4-dihydro-3H-1,2,4-triazol-3-one (11 mg, 0.045 mmol) and triethylamine (19 μL, 0.135 mmol) were added and the mixture allowed to warm to ambient temperature. After 1 h, saturated aqueous sodium carbonate was added and the mixture was extracted with dichloromethane. The organic layer was washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over sodium sulfate, filtered and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (11 mg). MS 616.2509 (M+1).

reactant | Triethylamine | 0.135 mmol, 19 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.045 mmol, 18.8 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
reactant | 4-nitrophenyl chloroformate | 0.045 mmol, 9.0 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 5-phenyl-2-piperidin-4-yl-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.045 mmol, 11 mg | C1(=CC=CC=C1)C=1NC(N(N1)C1CCNCC1)=O | C13H16N4O
reactant | triethylamine | 0.135 mmol, 19 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(5-oxo-3-phenyl-4,5-dihydro-1H-1,2,4-triazol-1-yl)piperidine-1-carboxamide | 11 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)N2CCC(CC2)N2N=C(NC2=O)C2=CC=CC=C2 | C30H30F5N7O2
